US05461143
A solution of ManNAc (5.0 g, 2.6 mmol), and Ac2O (10 mL) in pyridine (20 mL) was stirred for 10 hours at room temperature, and the mixture was concentrated, followed by coevaporation with toluene. A solution of the residue, allyl alcohol (2.63 g, 45.2 mmol; 3.1 mL), BF3.OEt2 (1.60 g, 11.3 mmol; 1.39 mL) in CH3NO2 (150 mL) was gently refluxed for 2.5 hours. After cooling, the mixture was concentrated. The residue was chromatographed on silica gel, with toluene-EtOAc (1:2) to give allyl 2-acetamido-3,4,6-tri-O-acetyl-2-deoxy-α-D-mannopyranoside in 6.47 g (74 percent);

reactant | ManNAc | 2.6 mmol, 5.0 g | OC1[C@H]([C@@H](O)[C@H](O)[C@H](O1)CO)NC(=O)C | C8H15NO6
reactant | Ac2O | 10 mL | CC(=O)OC(=O)C | C4H6O3
reactant | allyl alcohol | 45.2 mmol, 3.1 mL, 2.63 g | C(C=C)O | C3H6O
reactant | BF3.OEt2 | 11.3 mmol, 1.39 mL, 1.60 g | B(F)(F)F.CCOCC
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | CH3NO2 | 150 mL | C[N+](=O)[O-] | CH3NO2
product | allyl 2-acetamido-3,4,6-tri-O-acetyl-2-deoxy-α-D-mannopyranoside | C(C)(=O)N[C@@H]1[C@@H](OCC=C)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C17H25NO9
